US04681966
E and Z 2-(2-methylpropyl)-4-methyl-pent-2-enoic acid (7 g) in thioacetic acid (50 ml) was heated at 100° C. under reflux for 72 h. The excess thioacetic acid was removed in vacuo and the residue dissolved in dichloromethane which was extracted with aqueous saturated sodium hydrogen carbonate (3×200 ml). The aqueous phase was separated, acidified to pH1 with concentrated hydrochloric acid and extracted with fresh dichloromethane. The organic extract was dried over sodium sulphate and concentrated in vacuo to a gum which was chromatographed on silica in 15% ethyl acetate in dichloromethane to afford 2-(RS)-(1-(RS)-S-Acetyl mercapto-2-methylpropyl)-4-methyl pentanoic acid (2.0 g) as a colourless oil δ(CDCl3) 0.86-1.08 (12H, m, 2×CH(CH3)2); 1.32-1.46 (1H, m, CH); 1.48-1.78 (2H, m, CH2); 1.92-2.12 (1H, m, CH); 2.36 and 2.39 (3H, each s, CH3COS); 2.65 and 2.9 (1H, each m, CH); 3.65 and 3.78 (1H, each m, CHS).

reactant | 2-(2-methylpropyl)-4-methyl-pent-2-enoic acid | 7 g | CC(CC(C(=O)O)=CC(C)C)C | C10H18O2
reactant | thioacetic acid | 50 ml | C(C)(=S)O | C2H4OS
product | 2-(RS)-(1-(RS)-S-Acetyl mercapto-2-methylpropyl)-4-methyl pentanoic acid | 2.0 g | C(C)(=O)SC(C(C)C)C(C(=O)O)CC(C)C | C12H22O3S
